US04705791
4-(Chloromethylthio) benzyl alcohol
4-Mercaptobenzyl alcohol (see J.Chem.Soc 1963 p 1947) (5.0 mmol) was dissolved in bromochloromethane (100 mmol) and triethylamine (5 mmol) added dropwise. The resultant mixture was stirred for 1 hour at room temperature, washed with water and the dried (MgSO4) organic solution evaporated to leave the product. Yield 0.94g (95%) 1H NMR (CDCl3, δ): 2.03 (OH), 4.65 (CH2O), 4.90 (CH2S), 7.1-7.4 (Ph). The product needed no further purification for use in Example 33.

reactant | 4-Mercaptobenzyl alcohol | 5.0 mmol | SC1=CC=C(CO)C=C1 | C7H8OS
reactant | bromochloromethane | 100 mmol | BrCCl | CH2BrCl
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
product | 4-(Chloromethylthio) benzyl alcohol | ClCSC1=CC=C(CO)C=C1 | C8H9ClOS
